US05130439
2-n-Butyl-4-chloro-1-p-bromobenzyl-1H-imidazole-5-carboxaldehyde
A mixture of 2-n-butyl-4-chloro-1H-imidazole 5-carboxaldehyde (0.6 m=111.9 g), p-bromobenzylbromide (0.6 m=153.02 g), anhydrous potassium carbonate (0.75 m=103.5 g), and dry N,N-dimethylacetamide (900 mL) was stirred at room temperature for 4 hours. The mixture was diluted with 1.2 L of toluene and 1.8 L of water. After mixing for half an hour, the layers were separated. The organic layer was washed two more times with 900 mL portions of water, then dried over magnesium sulfate. The drying agent was removed by filtration and the filtrate was concentrated. The residual oil was pumped overnight to a weight of 191.71 g (89.9% yield).

reactant | 2-n-butyl-4-chloro-1H-imidazole 5-carboxaldehyde | 111.9 g | C(CCC)C=1NC(=C(N1)Cl)C=O | C8H11ClN2O
reactant | p-bromobenzylbromide | 153.02 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | potassium carbonate | 103.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylacetamide | 900 mL | CN(C(C)=O)C | C4H9NO
solvent | toluene | 1.2 L | C1(=CC=CC=C1)C | C7H8
solvent | water | 1.8 L | O | H2O
product | 2-n-Butyl-4-chloro-1-p-bromobenzyl-1H-imidazole-5-carboxaldehyde | 89.9% yield | C(CCC)C=1N(C(=C(N1)Cl)C=O)CC1=CC=C(C=C1)Br | C15H16BrClN2O
